US06982263B2
Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl ester (a) N-(t-butoxycarbonyl)-L-(O-benzyl)serinamide
2-Hydroxyisocaproic acid (0.143 g, 1.0 mmol) was dissolved in 4 mL of DMF and cooled to 0° C. with an ice-water bath. EDC (0.278 g, 1.4 mmol) and HOBT (0.190 g, 1.4 mmol) were added and stirring, under argon, continued for 25 min. To the cold solution was added 2-amino-3-benzyloxy-propionamide hydrochloride (0.250 g, 1.0 mmol), followed by addition of N-methylmorpholine (0.35 mL, 3.2 mmol) and stirring was continued overnight (16 h). The solution was diluted with 100 mL of EtOAc and washed sequentially with a 1.0 M solution of HCl (3×10 mL), a saturated solution of NaHCO3 (3×10 mL), water (100 mL) and brine (100 mL). The organic layer was dried over MgSO4, filtered and concentrated by rotary evaporation to give (0.17 g, 55%) of the crude product which was chromatographed (SiO2, 3% MeOH in EtOAc) to give the desired product (0.11 g, 35%). (d) Morpholine-4-carboxylic acid 1-(2-benzyloxy-1-carbamoyl-ethylcarbamoyl)-3-methyl-butyl Ester

reactant | 2-Hydroxyisocaproic acid | 1.0 mmol, 0.143 g | OC(C(=O)O)CC(C)C | C6H12O3
reactant | EDC | 1.4 mmol, 0.278 g
reactant | HOBT | 1.4 mmol, 0.190 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-3-benzyloxy-propionamide hydrochloride | 1.0 mmol, 0.250 g | Cl.NC(C(=O)N)COCC1=CC=CC=C1
reactant | N-methylmorpholine | 3.2 mmol, 0.35 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl ester | 0.11 g, 35% | C(C1=CC=CC=C1)OCC(C#N)NC(=O)C(CC(C)C)OC(=O)N1CCOCC1 | C21H29N3O5
